US05346914
A solution of methyl 4-aminobenzoate (15 g, 99 mmol), and methyl isocyanate (11.8 mL, 200 mmol) in toluene (400 mL) was heated at 100° C. under N2 for 3 hours during which time a precipitate formed slowly. Additional methyl isocyanate (11.8 mL, 200 mmol) was added and heating was continued for 2 hours. The reaction mixture was cooled to 0° C. and filtered. The precipitate was washed with ether and vacuum-dried to give methyl 4-(N-methylaminocarbonyl)aminobenzoate as a colorless solid (17.5 g, 85%).

reactant | methyl 4-aminobenzoate | 99 mmol, 15 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | methyl isocyanate | 200 mmol, 11.8 mL | CN=C=O | C2H3NO
reactant | methyl isocyanate | 200 mmol, 11.8 mL | CN=C=O | C2H3NO
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(N-methylaminocarbonyl)aminobenzoate | 17.5 g, 85% | CNC(=O)NC1=CC=C(C(=O)OC)C=C1 | C10H12N2O3
